US05929117
1-(3,4-Dimethoxybenzoyl)-3,4-methylenedioxybenzene was prepared analogously to 3,4,3',4'-tetramethoxybenzophenone using veratrole (1.3 mL, 10 mmol), aluminum chloride (1.5 g, 11 mmol) and piperonyloyl chloride (1.9 g, 10 mmol) with a reaction time of 2.5 hours at room temperature. The crude product was purified by flash column chromatography (silica gel, 5% ethyl acetate/methylene chloride) to afford 1.99 g (69%) of the product as a white solid: mp 164-165° C.; 1H NMR (CDCl3) δ 7.46-7.26 (m, 4H), 6.95-6.82 (m, 2H), 6.06 (s, 2H), 3.96 (s, 3H), 3.94 (s, 3H); 13C NMR (CDCl3) δ 193.9, 152.7, 151.0, 148.9, 147.8, 132.4, 130.6, 126.1, 124.8, 112.2, 109.9, 109.7, 107.6, 101.7, 56.0, 56.0; Anal. Calcd for C16H14O5. Theoretical: C, 67.13; H, 4.93. Found: C, 66.86; H, 5.11.

reactant | 3,4,3',4'-tetramethoxybenzophenone | COC=1C=C(C(=O)C2=CC(=C(C=C2)OC)OC)C=CC1OC | C17H18O5
reactant | veratrole | 10 mmol, 1.3 mL | C=1(C(OC)=CC=CC1)OC | C8H10O2
reactant | aluminum chloride | 11 mmol, 1.5 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | piperonyloyl chloride | 10 mmol, 1.9 g | C(C1=CC=2OCOC2C=C1)(=O)Cl | C8H5ClO3
product | 1-(3,4-Dimethoxybenzoyl)-3,4-methylenedioxybenzene | COC=1C=C(C(=O)C2=CC3=C(C=C2)OCO3)C=CC1OC | C16H14O5
